US06610694B1
Production of 6-Chloro-2-triphenylmethyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one
0.341 g of 6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one and 0.669 g of chlorotriphenylmethane were dissolved in 5 ml of N,N-dimethylformamide; 0.414 ml of N-ethyldiisopropylamine was added, followed by stirring at room temperature for 2 days. After water was added, the reaction mixture was extracted with ethyl acetate; the extract was washed with saline and dried over magnesium sulfate. After concentration under reduced pressure, the residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (2:1). The desired fraction was collected and concentrated; the crystal obtained was collected by filtration, washed with diethyl ether, and dried, to yield 0.591 g of the title compound.

reactant | 6-chloro[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.341 g | ClC=1C=CC=2N(N1)C(NN2)=O | C5H3ClN4O
reactant | chlorotriphenylmethane | 0.669 g | ClC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C19H15Cl
reactant | N-ethyldiisopropylamine | 0.414 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | 6-Chloro-2-triphenylmethyl[1,2,4]triazolo[4,3-b]pyridazin-3(2H)-one | 0.591 g | ClC=1C=CC=2N(N1)C(N(N2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)=O | C24H17ClN4O
